US06498159B1
4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[(3R)-3-hydroxypiperidino]phthalazine Hydrochloride
A mixture of 1.0 g 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine, 1.92 g (R)-(+)-3-hydroxypiperidine hydrochloride, 1.80 g diisopropyl ethylamine and 12 ml 1-methyl-2-pyrrolidone was stirred at 170° C. for 1 hr and 15 min. After cooling, ethyl acetate was added to the reaction solution which was then washed with water and brine. It was dried over anhydrous sodium sulfate, the solvent was evaporated, and the resulting residue was purified by silica gel column chromatography. The resulting free compound was suspended in acetic acid/ethanol/water, 1 N aqueous hydrochloric acid was added thereto, and it was dissolved by heating. After cooling, the resulting crystals were collected by filtration to give 860 mg of the title compound as a yellow powder.

reactant | 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine | 1.0 g | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C17H12Cl2N4O
reactant | (R)-(+)-3-hydroxypiperidine hydrochloride | 1.92 g | Cl.O[C@H]1CNCCC1
reactant | diisopropyl ethylamine | 1.80 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-pyrrolidone | 12 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[(3R)-3-hydroxypiperidino]phthalazine Hydrochloride | 860 mg | Cl.ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2C[C@@H](CCC2)O)C=CC1OC | InChI=1S/C22H22ClN5O2.ClH/c1-30-20-7-5-15(10-19(20)23)12-25-21-18-9-14(11-24)4-6-17(18)22(27-26-21)28-8-2-3-16(29)13-28;/h4-7,9-10,16,29H,2-3,8,12-13H2,1H3,(H,25,26);1H/t16-;/m1./s1
